US05131911
a/ Preparation of 2-benzyloxy-3-methoxy-6,β-dinitromethylstyrene
This compound is obtained according to the operating method described in Example 2a, in which the 2-benzyloxy-3-ethoxy-6-nitrobenzaldehyde is replaced with 2-benzyloxy-3-methoxy-6-nitrobenzaldehyde. A light yellow powder (yield=53%, m.p.=149°-150° C.) is obtained.

reactant | 2-benzyloxy-3-ethoxy-6-nitrobenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C(=CC=C1OCC)[N+](=O)[O-] | C16H15NO5
reactant | 2-benzyloxy-3-methoxy-6-nitrobenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C(=CC=C1OC)[N+](=O)[O-] | C15H13NO5
product | 2-benzyloxy-3-methoxy-6,β-dinitromethylstyrene | yield=53% | C(C1=CC=CC=C1)OC1=C(C=CC[N+](=O)[O-])C(=CC=C1OC)C[N+](=O)[O-] | C18H18N2O6
